US05110956
(1) Synthesis of 5,6-methylenedioxyindene
A solution of 10.8 g of 1-hydroxy-5,6-methylenedioxyindane and 15 ml of acetic acid in 100 ml of toluene was heated under reflux for 4 h. Water and a small amount of potassium carbonate were added to the reaction mixture. After extraction with ethyl acetate, the organic layer was washed with water and an aqueous common salt solution and dried over magnesium sulfate. The solvent was distilled off and the residue was treated according to silica gel column chromatography (chloroform/hexane=1:3) to obtain 9.0 g of the intended compound in the form of colorless crystals.

reactant | 1-hydroxy-5,6-methylenedioxyindane | 10.8 g | OC1CCC2=CC3=C(C=C12)OCO3 | C10H10O3
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
reactant | Water | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5,6-methylenedioxyindene | 9.0 g | C1OC=2C=C3C=CCC3=CC2O1 | C10H8O2
